US04294960
A solution of 7-[2-{2-(2,2,2-trifluoroacetamido)-4-thiazolyl}-2-methoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 0.55 g.) and sodium acetate trihydrate (1,76 g.) in ethyl acetate (3 ml.), tetrahydrofuran (3 ml.) and water (5.5 ml.) was stirred at room temperature overnight. The aqueous layer was separated from the resultant mixture, washed with dichloromethane, and then evaporated under reduced pressure to remove the organic solvent. The aqueous solution was adjusted to pH 4.2 under ice-cooling, and subjected to column chromatography on Diaion HP-20 resin (Trade mark: manufactured by Mitsubishi Chemical Industries Ltd., 15 ml.). After washing the column with water, the object compound was eluted with 20% aqueous isopropyl alcohol. The eluate was concentrated under reduced pressure and the residue was lyophilized to give 7-{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido}-3-methoxy-3-cephem-4-carboxylic acid (syn isomer 0.4 g.), m.p. 185° to 190° C. (dec.).

reactant | 7-[2-{2-(2,2,2-trifluoroacetamido)-4-thiazolyl}-2-methoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid | 0.55 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)=NOC)(F)F | C16H14F3N5O7S2
reactant | sodium acetate trihydrate | 1,76 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 5.5 ml | O | H2O
product | 7-{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido}-3-methoxy-3-cephem-4-carboxylic acid | 0.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)=NOC | C14H15N5O6S2
